datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC[O:33][C:31]([C:20]1=[C:21](/[N:22]=[N:23]/[C:24](N)=[O:25])CCC1)=[O:32].[CH:10]1=[CH:11][CH:12]=[C:13]2[C:14]1=[CH:15][CH:66]=[CH:67][CH:68]=[CH:69]2>>CC[O:33][C:31]([C:20]1([CH:10]2[CH:11]=[CH:12][C:13]3=[C:14]2[CH+:15][CH:66]=[CH:67][CH:68]=[CH:69]3)CCC[C:21]1=[N:22][N:23]=[C:24](N)[O-:25])=[O:32] 10,11=10,20;12,13=11,12;14,15=13,14;20,21=21,22;22,23=23,24;24,25=25"
"C/[CH:10]=[CH:11]/C.O=[N+]([O-])[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[CH:21]/[C:22](C2=CC=CC=C2)=[O:23])[CH:36]=[CH:35]1>>C[CH:10]([CH+:11]C)[CH:20]([CH:21]=[C:22](C1=CC=CC=C1)[O-:23])[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C(N(C2=CC=CC=C2)[C:34]2=[CH:33][CH:32]=[C:31]([CH+:20][C:41]3=[CH:42][CH:43]=[C:44](N(C4=CC=CC=C4)C4=CC=CC=C4)[CH:45]=[CH:46]3)[CH:36]=[CH:35]2)C=C1.CC[O:12][CH:11](C)[H:10]>>C1=CC=C(N(C2=CC=CC=C2)[C:34]2=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:41]3=[CH:42][CH:43]=[C:44](N(C4=CC=CC=C4)C4=CC=CC=C4)[CH:45]=[CH:46]3)[CH:36]=[CH:35]2)C=C1.CC[O+:12]=[CH:11]C 10,11=10,20;12=11,12"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].C[C:11](Cl)=[CH2:10]>>CC[O:34][C:32]([C:21]([CH:20]([CH2:10][C+:11](C)Cl)[C:41]1=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;20,21=21,22;22,23=23"
"C[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[Si:11](C)([H:10])[CH2:62][Ge:63](C)(C)C>>C[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([H:10])([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[Si+:11](C)[CH2:62][Ge:63](C)(C)C 10,11=10,20"
"CN1C(=O)C(CC2=CNC3=CC=CC=C23)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C.C[S+:61](C)[CH:10]=[C:11]=[N-:12]>>CN1C(=O)C(CC2=CNC3=CC=CC=C23)[N:23]([CH:22]=[CH:21][CH:20]([CH:10]([C:11]#[N:12])[S+:61](C)C)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:82][C:71]([CH:10]=[N+:11]([O-:12])[O-:62])=[O:72].[C:20](=[S:21])=[S:31]>>CC[O:82][C:71]([CH:10]([N+:11](=[O:12])[O-:62])[C:20]([S-:21])=[S:31])=[O:72] 10,11=10,20;12=11,12;20,21=21"
CC(C)[P:10](C(C)C)C(C)C.[CH+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1>>CC(C)[P+:10](C(C)C)(C(C)C)[CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1 10=20
"C1=CC=C(C2=CN(C[C@@H]3CCC[NH:10]3)N=N2)C=C1.CC[O:33][C:31](/[CH:20]=[C:21](C)/[N:22]=[N:23]/[C:24](N)=[O:25])=[O:32]>>CC[O:33][C:31]([CH:20]([NH+:10]1CCC[C@H]1CN1C=C(C2=CC=CC=C2)N=N1)[C:21](C)=[N:22][N:23]=[C:24](N)[O-:25])=[O:32] 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C1C[O:72][C:11]([O-:12])=[N:10]1.CC[O:33][C:31](/[CH:20]=[C:21](C)/[N:22]=[N:23]/[C:24](NC1=CC=CC=C1)=[O:25])=[O:32]>>CC[O:33][C:31]([CH:20]([N:10]1CC[O:72][C:11]1=[O:12])[C:21](C)=[N:22][N:23]=[C:24](NC1=CC=CC=C1)[O-:25])=[O:32] 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"CC[O:82][C:71]([CH:10]=[N+:11]([O-:12])[O-:62])=[O:72].Cl[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1>>CC[O:82][C:71]([CH:10]([N+:11](=[O:12])[O-:62])[C:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][C:53](Cl)=[CH:54][CH:55]=[CH:56]1)=[O:72] 10,11=10,20;12=11,12"
"C[O:14][C:13]1=[CH:12][CH:11]=[CH:10][CH:62]=[CH:61]1.O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]12>>C[O+:14]=[C:13]1[CH:12]=[CH:11][CH:10]([CH:20]2[C:21](=[N+:22]([O-])[O-:23])[CH:32]=[C:33]([N+](=O)[O-])[C:34]3=[N:35]O[N+:42]([O-])=[C:41]23)[CH:62]=[CH:61]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"C1=CC=C([C+:20]2[S:31]CCC[S:41]2)C=C1.CCCC[Ge:11](CCCC)(CCCC)[H:10]>>C1=CC=C([C:20]2([H:10])[S:31]CCC[S:41]2)C=C1.CCCC[Ge+:11](CCCC)CCCC 10,11=10,20"
"COC1=CC=C(/[CH:42]=[CH:41]/[CH:20]=[C:21]2[CH:22]=[C:23](C(C)(C)C)[C:24](=[O:25])[C:33](C(C)(C)C)=[CH:32]2)C=C1.O=C[C:71]1=[N:72][CH:62]=[CH:61][N-:10]1>>COC1=CC=C(/[CH:42]=[CH:41]/[CH:20]([N:10]2[CH:61]=[CH:62][N:72]=[C:71]2C=O)[C:21]2=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]2)C=C1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C1=CC=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])C=C1.C1CC[C:11](=[CH2:10])CC1>>C1=CC=C([C:22](=[CH:21][CH:20]([CH2:10][C+:11]2CCCCC2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[O-:23])C=C1 10,11=10,20;20,21=21,22;22,23=23"
